US07968570B2
A mixture of 2-Bromomethyl-4,6-dichloro-benzoic acid methyl ester (0.119 g, 0.4 mmol), (S)-1-(4-chloro-phenyl)-ethyl amine (0.067 mL, 0.48 mmol), and K2CO3 (0.104 g, 0.8 mmol) in toluene (5 mL) was heated with stirring at 100° C. for 2 h. Workup and silica gel column chromatography of the product using 30% ethyl acetate in hexane afforded (S)-5,7-dichloro-2-[1-(4-chloro-phenyl)-ethyl]-2,3-dihydro-isoindol-1-one (0.047 g, 35%). 1H NMR (300 MHz, CDCl3): δ (ppm) 1.64 (d, 3H), 3.94 (d, 1H), 4.26 (d, 1H), 5.74 (q, 1H) 7.22-7.42 (m, 6H). GC-MS: m/z 340 (M)+.

reactant | 2-Bromomethyl-4,6-dichloro-benzoic acid methyl ester | 0.4 mmol, 0.119 g | COC(C1=C(C=C(C=C1Cl)Cl)CBr)=O | C9H7BrCl2O2
reactant | (S)-1-(4-chloro-phenyl)-ethyl amine | 0.48 mmol, 0.067 mL | ClC1=CC=C(C=C1)[C@H](C)N | C8H10ClN
reactant | K2CO3 | 0.8 mmol, 0.104 g | C(=O)([O-])[O-].[K+].[K+]
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | toluene | 5 mL | C1(=CC=CC=C1)C | C7H8
solvent | hexane | CCCCCC | C6H14
product | (S)-5,7-dichloro-2-[1-(4-chloro-phenyl)-ethyl]-2,3-dihydro-isoindol-1-one | 0.047 g, 35% | ClC=1C=C2CN(C(C2=C(C1)Cl)=O)[C@@H](C)C1=CC=C(C=C1)Cl | C16H12Cl3NO
